US05994356
b) 4-[(1-tert-Butyloxycarbonylpiperidin-4-yl)methyloxy]piperidine
8.04 g (21 mmol) of 1-benzyl-4-[(1-tert-butyloxycarbonylpiperidin-4-yl)methyloxy]piperidine are exhaustively hydrogenated analogously to Example 5 over palladium hydroxide on carbon in methanol.

reactant | 1-benzyl-4-[(1-tert-butyloxycarbonylpiperidin-4-yl)methyloxy]piperidine | 21 mmol, 8.04 g | C(C1=CC=CC=C1)N1CCC(CC1)OCC1CCN(CC1)C(=O)OC(C)(C)C | C23H36N2O3
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | 4-[(1-tert-Butyloxycarbonylpiperidin-4-yl)methyloxy]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1CCNCC1 | C16H30N2O3
